US05496944
440 mg of N,N',N"-tris(4-chlorobutyryl)melamine was placed in a flask equipped with a magnetic stirring bar, a reflux condenser, an argon inlet and a rubber septum. To the flask was added 6ml DMF followed by 450 mg potassium tert-butoxide, while stirring the reaction mixture at room temperature for about 30 minutes. It was then diluted with CH2Cl2 and filtered. The filtrate was concentrated to dryness under reduced pressure. The residue was then purified by column chromatography (silica gel) to give 180 mg of pure 2,4,6-tris(pyrrolidin-2-on-1-yl)-1,3,5-triazine.

reactant | N,N',N"-tris(4-chlorobutyryl)melamine | 440 mg | ClCCCC(=O)NC1=NC(=NC(=N1)NC(CCCCl)=O)NC(CCCCl)=O | C15H21Cl3N6O3
reactant | DMF | 6ml | CN(C)C=O | C3H7NO
reactant | potassium tert-butoxide | 450 mg | CC(C)([O-])C.[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,4,6-tris(pyrrolidin-2-on-1-yl)-1,3,5-triazine | 180 mg | N1(C(CCC1)=O)C1=NC(=NC(=N1)N1C(CCC1)=O)N1C(CCC1)=O | C15H18N6O3
